US05756528
Step E: Preparation of N-Naphth-1-ylmethyl-2(S)-(t-butoxycarbonyl)amino-3(S)-methylpentanamine
To a slurry of 1-naphthylmethylamine (5.84 g, 37.2 mmol), crushed 3A molecular sieves (10 g), and N-t-butoxycarbonyl-isoleucinal (8.0 g, 37.2 mmol) in 1,2-dichloroethane (50 ml) was added sodium triacetoxyborohydride (15.8 g, 74.3 mmol) at 0° C. The reaction was allowed to warm slowly to RT and stirred for 48 hrs. The reaction was cooled to 0° C. and quenched with sat. aq. NaHCO3 and stirred for 30 min. The organic layer was separated, washed with saturated brine, dried (MgSO4) and evaporated in vacuo. The residue was purified by flash chromatography (SiO2, 25% ethyl acetate in hexanes) to provide the title compound as an oil.

reactant | 1-naphthylmethylamine | 37.2 mmol, 5.84 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | N-t-butoxycarbonyl-isoleucinal | 37.2 mmol, 8.0 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C=O | C11H21NO3
reactant | sodium triacetoxyborohydride | 74.3 mmol, 15.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-Naphth-1-ylmethyl-2(S)-(t-butoxycarbonyl)amino-3(S)-methylpentanamine | C1(=CC=CC2=CC=CC=C12)CNC[C@H]([C@H](CC)C)NC(=O)OC(C)(C)C | C22H32N2O2
